US04336202
The reactions of Examples 1 and 3 were respectively repeated and the reaction products were admixed in a molar (1)/(2) ratio of 87.6:12.4. Then, 1014 mg of this mixture of 2-ethoxy-4-oxo-2,3,4,5,6,7-hexahydrocoumarone and 2-(2',2'-diethoxyethyl)-1,3-cyclohexanedione, 1.7 ml of liquid ammonia and 5.5 ml of methanol were admixed in a glass tube which was sealed and heated at 100° C. for 1 hour and, then, at 150° C. for 16 hours. The above procedure provided 357.6 mg of 4-oxo-4,5,6,7-tetrahydroindole (yield 49%).

reactant | 2-ethoxy-4-oxo-2,3,4,5,6,7-hexahydrocoumarone | C(C)OC1OC=2CCCC(C2C1)=O | C10H14O3
reactant | 2-(2',2'-diethoxyethyl)-1,3-cyclohexanedione | C(C)OC(CC1C(CCCC1=O)=O)OCC | C12H20O4
reactant | ammonia | N | H3N
solvent | methanol | 5.5 ml | CO | CH4O
product | 4-oxo-4,5,6,7-tetrahydroindole | 357.6 mg, yield 49% | O=C1C=2C=CNC2CCC1 | C8H9NO
